US07902223B2
800 mg of water-moist palladium on activated carbon are added to a solution of 4.00 g (17.1 mmol) of 1-(4-nitro-2-methylphenyl)piperidin-2-one in 150 ml of methanol, and the mixture is hydrogenated at room temperature and atmospheric pressure for 22 hours. The reaction mixture is filtered, and the filtrate is evaporated, giving 1-(4-amino-2-methylphenyl)piperidin-2-one as a colourless solid; ESI 205.

reactant | water | 800 mg | O | H2O
reactant | 1-(4-nitro-2-methylphenyl)piperidin-2-one | 17.1 mmol, 4.00 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(CCCC1)=O)C | C12H14N2O3
solvent | methanol | 150 ml | CO | CH4O
product | 1-(4-amino-2-methylphenyl)piperidin-2-one | NC1=CC(=C(C=C1)N1C(CCCC1)=O)C | C12H16N2O
